US04151291
7-Propargyloxy-coumarin (JB 1)
In 100 ml DMF at 70° C. for 12 hours, 0.1 mole 7-hydroxy-coumarin is reacted with 0.1 mole propargyl bromide in the presence of 0.1 mole potassium carbonate. The compound of the title is obtained at a 60% yield. This compound melts at 118° C.

reactant | 7-hydroxy-coumarin | 0.1 mole | OC1=CC=C2C=CC(OC2=C1)=O | C9H6O3
reactant | propargyl bromide | 0.1 mole | C(C#C)Br | C3H3Br
reactant | potassium carbonate | 0.1 mole | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 7-Propargyloxy-coumarin | 60% yield | C(C#C)OC1=CC=C2C=CC(OC2=C1)=O | C12H8O3
